US04801735
2,5-Diallyl-3,6-dihydroxybenzaldoxime
Hydroxylamine hydrochloride (2 g) was dissolved in 20 ml of water and added to 2,5-diallyl-3,6-dihydroxybenzaldehyde (2 g). Enough ethanol was added to completely solubilise the aldehyde. The mixture was heated on a steam bath for ten minutes until TLC showed the reaction to be complete. The water and ethanol were evaporated and the solid recrystallised from ethanol/water, to give a beige solid, m.p. 241°-243° C.

reactant | Hydroxylamine hydrochloride | 2 g | Cl.NO
reactant | 2,5-diallyl-3,6-dihydroxybenzaldehyde | 2 g | C(C=C)C1=C(C=O)C(=C(C=C1O)CC=C)O | C13H14O3
reactant | ethanol | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 2,5-Diallyl-3,6-dihydroxybenzaldoxime | C(C=C)C1=C(C=NO)C(=C(C=C1O)CC=C)O | C13H15NO3
